* source ZAS
V_V2         N50219 0  
+PULSE 0 5 0 10n 10n 70u 200u
C_C2         N00723 0  100n  
R_R2         0 N00324  10k  
C_C3         N00042 0  2u  
R_R1         N50219 N487210  1k  
D_D2         0 N00324 Dbreak 
X_U5         0 N48919 WYJSCIE N00723 N00042 KONDENSATOR KONDENSATOR N00723 555B
C_C         0 KONDENSATOR  4.7n  
C_C4         0 N00723  100u  
C_C1         N487210 N00324  3n  
R_Ra         KONDENSATOR N00723  10k  
R_R4         0 WYJSCIE  1k  
Q_Q3         N48919 N00324 0 Q2N2222
R_R3         N48919 N00723  1k  
V_V4         N00723 0 5Vdc
